US04705786
A mixture of 800 mg of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 720 mg of N-methylbenzylamine and 1.0 g of triethylamine in 5 ml of DMF was stirred at room temperature for 8 hours. The reaction mixture was then poured into ice-water and the resultant mixture was extracted with ethyl acetate. The extracts were washed with water, dried over magnesium sulfate and concentrated in vacuo to yield a brown oil. Chromatography on silica gel using chloroform-methanol (20:1, v/v) as eluent afforded 780 mg of 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole as a colorless oil, IR νmaxneat cm-1 : 1730, 1635, 1580, 1545, 1450, 1360.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 800 mg | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | N-methylbenzylamine | 720 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole | 780 mg | C(C(=O)C)C1=NC(=NO1)CN(C)CC1=CC=CC=C1 | C14H17N3O2
